US08877805B2
Step 2. Synthesis of 5-hydroxymethyl-3-furancarboxylic acid ethyl ester
4-Ethoxycarbonylfuran-2-carboxylic acid (0.47 g, 2.53 mmol) was dissolved in tetrahydrofuran (10 mL), triethylamine (0.53 mL, 3.80 mmol) and ethyl chloroformate (0.29 mL, 3.04 mmol) were added at 0° C., and the mixture was stirred at room temperature for 1 hour. The reaction mixture was filtered through celite, water (0.23 mL, 12.7 mmol) and sodium borohydride (0.19 g, 5.06 mmol) were added to the filtrate, and the mixture was stirred overnight. 1N Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=50/50) to give the title compound (0.34 g).

reactant | 4-Ethoxycarbonylfuran-2-carboxylic acid | 2.53 mmol, 0.47 g | C(C)OC(=O)C=1C=C(OC1)C(=O)O | C8H8O5
reactant | triethylamine | 3.80 mmol, 0.53 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 3.04 mmol, 0.29 mL | ClC(=O)OCC | C3H5ClO2
reactant | water | 12.7 mmol, 0.23 mL | O | H2O
reactant | sodium borohydride | 5.06 mmol, 0.19 g | [BH4-].[Na+]
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-hydroxymethyl-3-furancarboxylic acid ethyl ester | 0.34 g | C(C)OC(=O)C1=COC(=C1)CO | C8H10O4
